US05635197
(+)-(4aR)-(10bR)-4-methyl-8-(3,4-dimethoxyphenyl)-10b-methyl-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one
A 15 mL round bottom flask was charged with (+)-(4aR)-(10bR)-4-methyl-8-bromo-10b-methyl-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one (200 mg, 0.65 mmol), tetrakis(triphenylphosphine) palladium (0) (23 mg, 0.02 mmol), 3,4-dimethoxyphenylboronic acid (142 mg, 0.78 mmol), 0.65 mL of 2M sodium carbonate solution and 2 mL of THE, fitted with a reflux condenser, and the stirred mixture was heated at 80°, under nitrogen, for 24 h. The mixture was cooled, diluted with chloroform (75 mL) and washed with brine (2×25 mL). The combined organic extracts were dried over sodium sulfate, concentrated, and purified by silica gel chromatography (ethyl acetate eluent), to give 171 mg (72%) of the title compound as an amorphous foam. mp 108°-112°. FDMS: m/e=365. α[D]589 =+73.75 (c=0.56, chloroform).

reactant | (+)-(4aR)-(10bR)-4-methyl-8-bromo-10b-methyl-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one | 0.65 mmol, 200 mg | CN1C(CC[C@@]2(C3=C(CC[C@@H]12)C=C(C=C3)Br)C)=O | C15H18BrNO
reactant | 3,4-dimethoxyphenylboronic acid | 0.78 mmol, 142 mg | COC=1C=C(C=CC1OC)B(O)O | C8H11BO4
reactant | sodium carbonate | 2M, 0.65 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | chloroform | 75 mL | C(Cl)(Cl)Cl | CHCl3
catalyst | tetrakis(triphenylphosphine) palladium (0) | 0.02 mmol, 23 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | (+)-(4aR)-(10bR)-4-methyl-8-(3,4-dimethoxyphenyl)-10b-methyl-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one | 171 mg, 72% | CN1C(CC[C@@]2(C3=C(CC[C@@H]12)C=C(C=C3)C3=CC(=C(C=C3)OC)OC)C)=O | C23H27NO3
